US04259345
A solution of [1-phenyl-pyrrol-2-yl]methyl trimethylammonium iodide (J.A.C.S., 73, 4921, (1951) (3.42 g) and imidazole (0.68 g) in ethanol (70 ml) was heated under reflux for 7 hours. The solution was evaporated and the residue was chromatographed on silica gel. Elution with chloroform gave an oil which was dissolved in ether. Addition of an excess of ethereal hydrogen chloride gave a precipitate which was filtered off and crystallised from methanol/ethyl acetate to give 1-phenyl-2-(imidazol-1-ylmethyl) pyrrole hydrochloride (0.65 g), m.p. 140°-141°.

reactant | [1-phenyl-pyrrol-2-yl]methyl trimethylammonium iodide | [I-].C1(=CC=CC=C1)N1C(=CC=C1)C[N+](C)(C)C
reactant | imidazole | 0.68 g | N1C=NC=C1 | C3H4N2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 1-phenyl-2-(imidazol-1-ylmethyl) pyrrole hydrochloride | 0.65 g | Cl.C1(=CC=CC=C1)N1C(=CC=C1)CN1C=NC=C1 | InChI=1S/C14H13N3.ClH/c1-2-5-13(6-3-1)17-9-4-7-14(17)11-16-10-8-15-12-16;/h1-10,12H,11H2;1H
